US06429214B1
{6-[3-(1,4,5,6-Tetrahydro-pyrimidin-2-ylamino)propoxy]-1,2,3,4-tetrahydro-naphthalen-2-yl}-acetic acid methyl ester bis(hydrochloride)
To a solution of {6-[3-(1,4,5,6-tetrahydro-pyrimidin-2-ylamino)-propoxy]-1,2,3,4-tetrahydro-naphthalen-2-yl}-acetic acid (25 mg) in MeOH (2 mL) was added HCl in MeOH and the solution was heated to reflux for 3 h. The reaction was cooled to room temperature and concentrated under reduced pressure to afford a tan oil. Ether was added, the contents were swirled and the solvent decanted. Lyophilization of the oily residue gave the title compound as a hygroscopic, ivory solid (29 mg). NMR (300 MHz, MeOH-d4) δ6.84 (d, J 8.20 Hz, 1H), 6.61-6.56 (m, 2H), 3.92 (t, J=5.75 Hz, 2H), 3.59 (s, 3H), 3.28-3.21 (m, 5H), 2.72-2.68 (m, 3H), 2.33-2.24 (m, 3H), 2.09-2.06 (m, 1H), 1.92 (t, J=7.09 Hz, 2H), 1.87-1.77 (m, 3H), 1.37-1.19 (m, 2H); MS (+ESI) m/z 360 (M+H)+; Calculated for C20H29N3O3.2 HCl: C, 55.56; H, 7.23; N, 9.72. Found: C, 55.15; H. 7.10; N, 9.88.

reactant | {6-[3-(1,4,5,6-tetrahydro-pyrimidin-2-ylamino)-propoxy]-1,2,3,4-tetrahydro-naphthalen-2-yl}-acetic acid | 25 mg | N1C(=NCCC1)NCCCOC=1C=C2CCC(CC2=CC1)CC(=O)O | C19H27N3O3
reactant | HCl | Cl | ClH
reactant | Ether | CCOCC | C4H10O
solvent | MeOH | 2 mL | CO | CH4O
product | {6-[3-(1,4,5,6-Tetrahydro-pyrimidin-2-ylamino)propoxy]-1,2,3,4-tetrahydro-naphthalen-2-yl}-acetic acid methyl ester bis(hydrochloride) | Cl.Cl.COC(CC1CC2=CC=C(C=C2CC1)OCCCNC=1NCCCN1)=O | InChI=1S/C20H29N3O3.2ClH/c1-25-19(24)13-15-4-5-17-14-18(7-6-16(17)12-15)26-11-3-10-23-20-21-8-2-9-22-20;;/h6-7,14-15H,2-5,8-13H2,1H3,(H2,21,22,23);2*1H
